US03941799
An amount of 25 g of 1-(benzyloxymethyl)-6-phenyl- 8-chloro-4H-s-triazolo[4,3-a] [1,4]benzodiazepine is dissolved in 200 ml of glacial acetic acid; there is then added to the solution 170 ml of 48% aqueous hydrobromic acid. The mixture is heated for 90 minutes at 80° and then cooled to 5°; while stirring is maintained, the mixture is adjusted to pH 6 with concentrated sodium hydroxide solution, and water as well as methylene chloride subsequently added. The organic phase is separated, washed with saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated by evaporation. The residue is dissolved in ethyl acetate/methanol (9:1); the solution is filtered through a column of 150 g of silica gel (Merck, particle size 0.05 - 0.2 mm), and the column eluted with ethyl acetate/methanol (9:1) to (7:3). The eluate is concentrated by evaporation and the residue crystallised from ethyl acetate/ether to obtain 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol, M.P. 210°-211°.

reactant | 1-(benzyloxymethyl)-6-phenyl- 8-chloro-4H-s-triazolo[4,3-a] [1,4]benzodiazepine | 25 g | C(C1=CC=CC=C1)OCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C24H19ClN4O
reactant | hydrobromic acid | 170 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)CO | C17H13ClN4O
